US05705502
500 mg (1.67 mmol) of N-(3-chloro-phenyl)-4-(N-oxido-4-pyridyl)-2-pyrimidineamine are suspended in 5 ml of acetonitrile, and 0.42 ml (4.5 mmol) of dimethylcarbamoyl chloride and 0.56 ml (4.5 mmol) of trimethylsilyl cyanide are added. After stirring for 14 hours at 60°, the reaction mixture is cooled to RT and the reaction product is isolated by filtration and washed with diethyl ether. Recrystallisation from tetrahydrofuran gives N-(3-chloro-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine in the form of yellow crystals; m.p. 221°-222°, Rf =0.6 (hexane:ethyl acetate=1:1).

reactant | N-(3-chloro-phenyl)-4-(N-oxido-4-pyridyl)-2-pyrimidineamine | 1.67 mmol, 500 mg | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=[N+](C=C1)[O-] | C15H11ClN4O
reactant | dimethylcarbamoyl chloride | 4.5 mmol, 0.42 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilyl cyanide | 4.5 mmol, 0.56 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(3-chloro-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N | C16H10ClN5
